US06630577B2
A saturated aqueous solution of potassium permanganate (61.3 g, 388 mmol) was added in portions to a well stirred solution of 3,4-dibromotoluene (40.4 g, 162 mmol) in acetic acid (700 mL) while maintaining the temperature between 70 and 80° C. After addition, the suspension was stirred for an additional 4 hours at 80° C. The solution was concentrated on a rotary evaporator, the residue treated with 5 N NaOH (700 mL) and heated under reflux for 2 hours. The MnO2 cake was filtered from solution and washed thoroughly with hot water. The filtrate was extracted with hexane (2×100 mL) and acidified with concentrated HCl pH 2. Collected white precipitate by filtration. Washed precipitate with water and dried under high vacuum. Obtained 16.59 gram (37% yield) of 3,4-dibromobenzoic acid. 1H NMR (300 MHz, DMSO-d6): δ13.47 (singlet, 1H), 8.14 (singlet, 1H), 7.88 (doublet, J=8.1 Hz, 1H), 7.99 (doublet, J=8.1 Hz, 1H). 13C NMR (300 MHz, DMSO-d6): δ165.72, 134.42, 134.18, 132.07, 129.96, 129.32, 124.40.

reactant | potassium permanganate | 388 mmol, 61.3 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 3,4-dibromotoluene | 162 mmol, 40.4 g | BrC=1C=C(C=CC1Br)C | C7H6Br2
reactant | acetic acid | 700 mL | C(C)(=O)O | C2H4O2
product | 3,4-dibromobenzoic acid | 16.59 gram, 37% yield | BrC=1C=C(C(=O)O)C=CC1Br | C7H4Br2O2
